US04880820
(S)-9-(2,3-Dipropionyloxy-1-propoxymethyl)guanine
A mixture of 205 mg (0.75 mmole) of (S)-9-(2,3-dihydroxy-1-propoxymethyl)guanine monohydrate, 1.5 ml of propionic anhydride, 6 ml of dry dimethylformamide, and 1.5 ml of dry pyridine is stirred at room temperature under a drying tube. After 4 days the mixture is diluted with 25 ml of ether. The solid is collected on a filter and washed with ether. It is recrystallized from isopropanol.

reactant | (S)-9-(2,3-dihydroxy-1-propoxymethyl)guanine monohydrate | 0.75 mmole, 205 mg | O.O[C@H](COCN1C=2N=C(NC(C2N=C1)=O)N)CO
reactant | propionic anhydride | 1.5 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
reactant | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | 25 ml | CCOCC | C4H10O
product | (S)-9-(2,3-Dipropionyloxy-1-propoxymethyl)guanine | C(CC)(=O)O[C@@H](COCN1C=2N=C(NC(C2N=C1)=O)N)COC(CC)=O | C15H21N5O6
